US04314061
3,6-bis(2-diethylaminoethoxy)acridine zinc chloride complex
A suspension of 3,6-bis(2-diethylaminoethoxy)acridine free base and one equivalent of zinc chloride in ethanol is refluxed for 2 hours. The mixture is precipitated with ethyl acetate giving the 1:1 complex.

reactant | 3,6-bis(2-diethylaminoethoxy)acridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC | C25H35N3O2
reactant | zinc chloride | one equivalent | [Cl-].[Zn+2].[Cl-]
solvent | ethanol | C(C)O | C2H6O
product | 3,6-bis(2-diethylaminoethoxy)acridine zinc chloride | [Cl-].[Zn+2].C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC.[Cl-] | InChI=1S/C25H35N3O2.2ClH.Zn/c1-5-27(6-2)13-15-29-22-11-9-20-17-21-10-12-23(19-25(21)26-24(20)18-22)30-16-14-28(7-3)8-4;;;/h9-12,17-19H,5-8,13-16H2,1-4H3;2*1H;/q;;;+2/p-2
